US04272432
Ng -Nitro-L-arginyl-L-proline methyl ester, hydrobromide
N-Benzyloxycarbonyl-Ng -nitro-L-arginyl-L-proline methyl ester (16.3 g., 35.1 mmoles) is treated with 30% hydrobromic acid in glacial acetatic acid (50 ml) for one hour and at room temperature. Dry diethyl ether (ca. 500 ml) is added to give a pale yellow very hygroscopic solid. The product is not characterized further due to the very hygroscopic nature. It is dried in vacuo over KOH and used for the next reaction.

reactant | nitro-L-arginyl-L-proline methyl ester | 35.1 mmoles, 16.3 g | COC([C@H]1N(CCC1)C([C@@H](N[N+](=O)[O-])CCCNC(N)=N)=O)=O | C12H22N6O5
reactant | hydrobromic acid | Br | BrH
solvent | diethyl ether | ca. 500 ml | C(C)OCC | C4H10O
product | Nitro-L-arginyl-L-proline methyl ester, hydrobromide | Br.COC([C@H]1N(CCC1)C([C@@H](N[N+](=O)[O-])CCCNC(N)=N)=O)=O | InChI=1S/C12H22N6O5.BrH/c1-23-11(20)9-5-3-7-17(9)10(19)8(16-18(21)22)4-2-6-15-12(13)14;/h8-9,16H,2-7H2,1H3,(H4,13,14,15);1H/t8-,9-;/m0./s1
